US08071592B2
(b) 1-[2-(4-Amino-1-piperidinyl)ethyl]-7-fluoro-1,5-naphthyridin-2(1H)-one Dihydrochloride
To a solution of 1,1-dimethylethyl {1-[2-(7-fluoro-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl]-4-piperidinyl}carbamate (1.591 g, 4.079 mmol) in chloroform (15 ml) and MeOH (15 ml) was added 4M HCl in 1,4-dioxane (15 ml). The reaction was stirred at rt for 0.5 h before evaporation to provide the desired compound as a slightly impure white solid which was used without further purification (1.633 g, 110%).

reactant | 1,1-dimethylethyl {1-[2-(7-fluoro-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl]-4-piperidinyl}carbamate | 4.079 mmol, 1.591 g | FC1=CN=C2C=CC(N(C2=C1)CCN1CCC(CC1)NC(OC(C)(C)C)=O)=O | C20H27FN4O3
reactant | HCl | 4M | Cl | ClH
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
solvent | MeOH | 15 ml | CO | CH4O
solvent | 1,4-dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 1-[2-(4-Amino-1-piperidinyl)ethyl]-7-fluoro-1,5-naphthyridin-2(1H)-one Dihydrochloride | Cl.Cl.NC1CCN(CC1)CCN1C(C=CC2=NC=C(C=C12)F)=O | InChI=1S/C15H19FN4O.2ClH/c16-11-9-14-13(18-10-11)1-2-15(21)20(14)8-7-19-5-3-12(17)4-6-19;;/h1-2,9-10,12H,3-8,17H2;2*1H
